US05608056
To a mixture of potassium t-butoxide (2.18 g) and N,N-dimethylformamide (43 ml) was added thioacetic acid (1.48 g) at -10° C. After stirring at 0°-5° C. for 30 minutes, a solution of (2R,4R)-1-allyloxycarbonyl-2-cyanomethyl-4-methanesulfonyloxypyrrolidine (4.30 g) in N,N-dimethylformamide (4 ml) was added to the cold mixture. After stirring at 80° C. for 3 hours, the mixture was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with aqueous sodium chloride solution twice, dried over magnesium sulfate and evaporated to give (2R,4S)-4-acetylthio-1-allyloxy-carbonyl-2-(cyanomethyl) pyrrolidine (4.04 g).

reactant | potassium t-butoxide | 2.18 g | CC(C)([O-])C.[K+]
reactant | thioacetic acid | 1.48 g | C(C)(=S)O | C2H4OS
reactant | (2R,4R)-1-allyloxycarbonyl-2-cyanomethyl-4-methanesulfonyloxypyrrolidine | 4.30 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CC#N | C11H16N2O5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 43 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2R,4S)-4-acetylthio-1-allyloxy-carbonyl-2-(cyanomethyl) pyrrolidine | 4.04 g | C(C)(=O)S[C@H]1C([C@H](N(C1)OCC=C)CC#N)=C=O | C12H14N2O3S
